US07262212B2
(S)-1-(2-bromo-4-nitroimidazol-1-yl)-2-methyl-3-{4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazin-1-yl}propan-2-ol (790 mg, 1.34 mmol) was dissolved in N,N-dimethylformamide (4 ml), sodium hydride (69 mg, 1.74 mmol) was added while cooling on ice, and the solution was stirred at the same temperature for 1 hour. To the reaction mixture, ethyl acetate (1.3 ml) and water (10 ml) were added in this order, and the precipitated crystals were filtered off and washed with water. The crystals were purified by silica gel column chromatography (methylene chloride/methanol=10/1) and recrystallized from ethyl acetate/isopropyl ether to obtain (S)-2-methyl-6-nitro-2-{4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazin-1-ylmethyl}-2,3-dihydroimidazo[2,1-b]oxazole (270 mg, yield 40%) as a white powder.

reactant | (S)-1-(2-bromo-4-nitroimidazol-1-yl)-2-methyl-3-{4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazin-1-yl}propan-2-ol | 1.34 mmol, 790 mg | BrC=1N(C=C(N1)[N+](=O)[O-])C[C@](CN1CCN(CC1)C1CCN(CC1)C1=CC=C(C=C1)OC(F)(F)F)(O)C | C23H30BrF3N6O4
reactant | sodium hydride | 1.74 mmol, 69 mg | [H-].[Na+]
reactant | ethyl acetate | 1.3 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 10 ml | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | (S)-2-methyl-6-nitro-2-{4-[1-(4-trifluoromethoxyphenyl)piperidin-4-yl]piperazin-1-ylmethyl}-2,3-dihydroimidazo[2,1-b]oxazole | 270 mg, yield 40% | C[C@@]1(CN2C(O1)=NC(=C2)[N+](=O)[O-])CN2CCN(CC2)C2CCN(CC2)C2=CC=C(C=C2)OC(F)(F)F | C23H29F3N6O4
